US08334310B2
To a stirred solution of (2S,3R,4R,5S,6R)-6(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride (250 mg, 0.65 mmol) in CH2Cl2 (5 mL) was added triethylamine (90 μL, 0.65 mmol). The solution was diluted sated aqueous NaHCO3 (20 mL), then the resulting mixture was extracted with CH2Cl2 (3×10 mL) and the combined organic extracts were dried (Na2SO4) and concentrated to give presumably (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate (220 mg) which was used without further purification.

reactant | (2S,3R,4R,5S,6R)-6(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate hydrochloride | 0.65 mmol, 250 mg | Cl.C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N)OC(C)=O)OC(C)=O)COC(C)=O
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,3R,4R,5S,6R)-6-(acetoxymethyl)-3-amino-tetrahydro-2H-pyran-2,4,5-triyl triacetate | 220 mg | C(C)(=O)O[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1N)OC(C)=O)OC(C)=O)COC(C)=O | C14H21NO9
